US07985755B2
5-{2-[4-(2-Fluoro-benzenesulfonyl)-piperazin-1-yl]-ethoxy}-quinazoline-2,4-diamine (Method B)
In an 8 mL vial triethylamine (40 mg; 0.4 mmol) was added to a mixture of 5-(2-piperazin-1-yl-ethoxy)-quinazoline-2,4-diamine trifluoroacetate (50 mg; 0.1 mmol) in 1.5 mL of tetrahydrofuran. 2-Fluorobenzene-sulfonyl chloride was added and reaction stirred at room temperature for 16 hours. Reaction was purified by reprecipitation with ethanol and (0.5:1) 1N NaOH. Solids were filtered to obtain 14 mg of title compound. (310% yield). 1H NMR (400 MHz, DMSO-d6) δ 7.77 (m, 3H), 7.48 (m, 2H), 7.32 (t, J=8.4 Hz, 1H), 7.18 (br s, 1H), 6.74 (d, J=8.4 Hz, 1H), 6.50 (d, J=7.6 Hz, 1H), 5.87 (br s, 2H), 4.16 (t, J=5.2 Hz, 2H), 3.17 (br s, 4H), 2.77 (t, J=5.2 Hz, 2H), 2.52 (m, 4H).

reactant | triethylamine | 0.4 mmol, 8 mL, 40 mg | C(C)N(CC)CC | C6H15N
reactant | 5-(2-piperazin-1-yl-ethoxy)-quinazoline-2,4-diamine trifluoroacetate | 0.1 mmol, 50 mg | FC(C(=O)O)(F)F.N1(CCNCC1)CCOC1=C2C(=NC(=NC2=CC=C1)N)N
reactant | 2-Fluorobenzene-sulfonyl chloride | FC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | 5-{2-[4-(2-Fluoro-benzenesulfonyl)-piperazin-1-yl]-ethoxy}-quinazoline-2,4-diamine | 14 mg, 310% yield | FC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)CCOC1=C2C(=NC(=NC2=CC=C1)N)N | C20H23FN6O3S
